US07598285B2
Ethyl 4-{(1S)-1-[3-[2-fluoro-5-(trifluoromethyl)phenyl]-5-(6-methoxy-2-naphthyl)-1H-pyrazol-1-yl]ethyl}benzoate (2.87 g, 5.11 mmol) was dissolved in MeOH-dioxane (1:2, 60 ml) and treated with NaOH (2.5 g, excess) in water (20 ml). The mixture slowly cleared with stirring, and was left overnight. The reaction mixture was first concentrated to ˜30 ml, acidified with 2N HCl and extracted with ethyl acetate. The organic layer was washed with brine 2× and dried over Na2SO4. Evaporation of solvent and vacuum drying afforded 4-{(1S)-1-[3-[2-fluoro-5-(trifluoromethyl)phenyl]-5-(6-methoxy-2-naphthyl)-1H-pyrazol-1-yl]ethyl}benzoic acid as colorless dry foam. NMR (500 MHz, CDCl3) δ: 2.00 (d, J=7.0 Hz, 3H); 3.95 (s, 3H); 5.65 (q, J=7.0 Hz, 1H); 6.88 (d, JF-H=4.2 Hz, 1H); 7.17 (d, J=2.5 Hz, 1H); 7.20 (dd, J=2.5 Hz, 8.9 Hz, 1H); 7.26 (t, J=8.6 Hz, 1H); 7.31 (dd, J=1.8 Hz, 8.5 Hz, 1H); 7.32 (d, J=8.4 Hz, 2H); 7.56 (m, 1H); 7.66 (d, J=1.8 Hz, 1H); 7.68 (d, J=8.9 Hz, 1H); 7.77 (d, J=8.5 Hz, 1H); 8.06 (d, J=8.4 Hz, 2H); 8.48 (dd, J=2.9 Hz, 6.9 Hz, 1H). MS C30H22F4N2O3 Cald: 534.16; Obsd (M+1): 535.17.

reactant | Ethyl 4-{(1S)-1-[3-[2-fluoro-5-(trifluoromethyl)phenyl]-5-(6-methoxy-2-naphthyl)-1H-pyrazol-1-yl]ethyl}benzoate | 5.11 mmol, 2.87 g | FC1=C(C=C(C=C1)C(F)(F)F)C1=NN(C(=C1)C1=CC2=CC=C(C=C2C=C1)OC)[C@@H](C)C1=CC=C(C(=O)OCC)C=C1 | C32H26F4N2O3
reactant | NaOH | 2.5 g | [OH-].[Na+]
solvent | MeOH dioxane | 60 ml | CO.O1CCOCC1
solvent | water | 20 ml | O | H2O
product | 4-{(1S)-1-[3-[2-fluoro-5-(trifluoromethyl)phenyl]-5-(6-methoxy-2-naphthyl)-1H-pyrazol-1-yl]ethyl}benzoic acid | FC1=C(C=C(C=C1)C(F)(F)F)C1=NN(C(=C1)C1=CC2=CC=C(C=C2C=C1)OC)[C@@H](C)C1=CC=C(C(=O)O)C=C1 | C30H22F4N2O3
